US08314253B2
1.5 rac-(1R*,8R*)-Tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-one
To a solution of 5.6 g of tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-ol in 30 mL of DCM were added 110 mL of a 15% DMP solution in DCM. After stirring overnight 300 mL of EtOAc/Hept (1:1) were added, the obtained suspension was filtered over a pad of celite and the filtrated was concentrated in vacuo. The residue was treated again with EtOAc/Hept (1:1) and filtered over celite. This procedure was repeated twice to obtain 4.9 g of the desired compound as yellow oil.

reactant | tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-ol | 5.6 g | C12C3=CC=CC=C3C(C(C1)O)CC2 | C12H14O
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | rac-(1R*,8R*)-Tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-one | 4.9 g | C12C3=CC=CC=C3C(C(C1)=O)CC2 | C12H12O
